US07816361B2
Step 1: Preparation of 3-Isoxazol-5-yl-3-oxo-propionic acid ethyl ester
To a stirred solution of diethyl malonate (2.6 ml, 2.74 g) in THF (40 ml) under an atmosphere of nitrogen at −60° C. was added nbutyl lithium (2.5 M, 18.9 ml) dropwise over 15 mins, keeping the temperature constant. The reaction became a cloudy white colour from the formation of the di-lithium salt then became yellowish. After 10 mins, the reaction was cooled to −78° C., when a solution of Isoxazole-5-carbonyl chloride (1 g) in THF (10 ml) was added dropwise over 15 mins. The reaction then warmed to −45° C. and stirred for 1 h, the solution had gone pale brown. The reaction was then poured into 1 M HCl solution (50 ml) with stirring and extracted with CH2Cl2 (2×150 ml). The combined organic layers were washed with sat. NaCO3 soln (1×30 ml), dried over MgSO4, filtered and concentrated in vacuo to give the product as a pale oil which was used as such in the next step. Yield 1.1 g, 35.1%.

reactant | diethyl malonate | 2.6 ml, 2.74 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | lithium | 2.5 M, 18.9 ml | [Li] | Li
reactant | Isoxazole-5-carbonyl chloride | 1 g | O1N=CC=C1C(=O)Cl | C4H2ClNO2
reactant | HCl | 1 M, 50 ml | Cl | ClH
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-Isoxazol-5-yl-3-oxo-propionic acid ethyl ester | C(C)OC(CC(=O)C1=CC=NO1)=O | C8H9NO4
